US07091228B2
To a 2-L three-necked round-bottomed flask were charged 4-iodoformanilide (30.0 g, 121 mmol, 1.0 eq), bis(pinacolato)diboron (30.8 g, 121 mmol, 1.0 eq), palladium acetate (0.82 g, 3.6 mmol, 3 mol %), potassium acetate (35.70 g, 364.3 mmol), and 500 mL N,N-dimethylformamide. The mixture was degassed by gently bubbling argon through the solution for 30 minutes at rt. The mixture was then heated at 80° C. under argon until the reaction was complete (2–3 hours). After the mixture was cooled to rt, methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate (36.3 g, 121 mmol), cesium carbonate (59.4 g, 182 mmol), and palladium tetrakistriphenylphosphine (4.2 g, 3.6 mmol, 3 mol%) were added. The reaction mixture was then heated at 80° C. overnight under argon. The mixture was cooled to rt, and slowly diluted with water (1.5 L), which caused solid material to precipitate. The solids were removed by filtration, and washed with 500 mL water. Then the solids were dissolved in 500 mL methylene chloride, and black particles were removed by passing the solution through a pad of Celite®. The filtrate was washed with 150 mL water (2×). After the solution was dried over sodium sulfate, the solution was concentrated under reduced pressure to afford a dark, brown residue. The residue was stirred in ethyl acetate (200 mL) and hexane (200 mL) for 1 h. After filtration and drying, methyl 4-[4′-(formylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate was obtained as a yellow solid (28.0 g, 68%). 1H NMR (CDCl3) δ 8.42 (d, J=2 Hz, 1H), 7.98 (d, J=8 Hz, 2H), 7.62 (m, 6H), 3.70 (s, 3H), 3.33 (s, 2H), 1.35 (s, 6H) and 40% tautomer; ESI-MS m/z 340.1 (MH+).

reactant | 4-iodoformanilide | 121 mmol, 30.0 g, 1.0 eq | C1=CC(=CC=C1NC=O)I | C7H6INO
reactant | bis(pinacolato)diboron | 121 mmol, 30.8 g, 1.0 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 364.3 mmol, 35.70 g | C(C)(=O)[O-].[K+]
reactant | methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate | 121 mmol, 36.3 g | BrC1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C13H15BrO3
reactant | cesium carbonate | 182 mmol, 59.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 1.5 L | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 3.6 mmol, 0.82 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane | 200 mL | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | methyl 4-[4′-(formylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate | C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C20H21NO4
